US05654316
3,4-Dichloro-beta-[2-[(4-methoxyphenyl)methylamino]-2-oxoethyl]benzenepropanoic acid
3-(3,4-Dichlorophenyl)glutaric anhydride (5.0 g) in CH2Cl2 (100 mL) at 0° C. was treated sequentially with 4-methoxy-N-methylaniline (3.3 g)), triethylamine (3.36 mL) and N,N-dimethylaminopyridine (0.24 g). The mixture was stirred at 0° C. for two hours then allowed to warm to room temperature and stirred for 12 hours. The reaction mixture was washed with 1N HCl (100 mL) and water (2×100 mL). The organic layers were dried over MgSO4, filtered and concentrated to afford the title compound (7.3 g).

reactant | 3-(3,4-Dichlorophenyl)glutaric anhydride | 5.0 g | ClC=1C=C(C=CC1Cl)C1CC(=O)OC(C1)=O | C11H8Cl2O3
reactant | 4-methoxy-N-methylaniline | 3.3 g | COC1=CC=C(NC)C=C1 | C8H11NO
reactant | triethylamine | 3.36 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-beta-[2-[(4-methoxyphenyl)methylamino]-2-oxoethyl]benzenepropanoic acid | 7.3 g | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC(=O)NCC1=CC=C(C=C1)OC | C19H19Cl2NO4
